US07659268B2
To a mixture of 1,1,1,3,3,3-hexafluoro-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol (50 mg, 0.13 mmol) and N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (37 mg, 0.10 mmol) in DME (1 mL) and 2 M Na2CO3 (0.1 mL) was added Pd(PPh3)4 (6 mg, 0.005 mmol). The mixture was heated in microwave oven at 120° C. for 30 min. The mixture was partitioned between ethyl acetate and H2O, and the aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (20-40% ethyl acetate-hexane) to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)phenyl)-5-methylpyridin-2-yl)cyclopropane-carboxamide (44 mg, 80%). 1H NMR (400 MHz, CDCl3) δ 8.01 (d; J=8.4 Hz, 1H), 7.71 (s, 1H), 7.66-7.62 (m, 2H), 7.53-7.43 (m, 3H), 7.15 (td, J=8.8, 1.7 Hz, 2H), 7.00 (d, J=8.2 Hz, 1H), 2.19 (s, 3H), 1.68 (q, J=3.6 Hz, 2H), 1.10 (q, J=3.6 Hz, 2H). MS (ESI) m/e (M+H+) 575.3.

reactant | 1,1,1,3,3,3-hexafluoro-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol | 0.13 mmol, 50 mg | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C15H17BF6O3
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 37 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2 M, 0.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)phenyl)-5-methylpyridin-2-yl)cyclopropane-carboxamide | 44 mg, 80% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C2=CC(=CC=C2)C(C(F)(F)F)(C(F)(F)F)O)F | C26H18F8N2O4
